US07423159B2
A mixture of methyl 1H-1,2,4-triazole-3-carboxylate (7.06 g), 4-nitrobenzyl bromide (10 g), potassium carbonate (16.6 g) and N,N-dimethylformamide (60 ml) was stirred at room temperature for 4 hrs. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to give methyl 1-(4-nitrobenzyl)-1H-1,2,4-triazole-5-carboxylate (1.50 g, 12%) as crystals from a fraction eluted with hexane-ethyl acetate (1:1, v/v). Recrystallization thereof from ethyl acetate-hexane gave colorless prism crystals. melting point: 126-130° C.

reactant | methyl 1H-1,2,4-triazole-3-carboxylate | 7.06 g | N1N=C(N=C1)C(=O)OC | C4H5N3O2
reactant | 4-nitrobenzyl bromide | 10 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | potassium carbonate | 16.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 1-(4-nitrobenzyl)-1H-1,2,4-triazole-5-carboxylate | 1.50 g, 12% | [N+](=O)([O-])C1=CC=C(CN2N=CN=C2C(=O)OC)C=C1 | C11H10N4O4
